US07888366B2
To a solution of 2,6-difluorobenzonitrile (100 mg; 0.72 mmol) and 4-chloro-2-methoxyphenol (114 mg; 0.72 mmol) in anhydrous DMF (5 mL) is added potassium carbonate (50 mg; 0.36 mmol). The reaction mixture is heated to 70° C. overnight. After allowing to room temperature, the solvent is removed under vacuum and the resulting solid is partitioned between ethyl acetate and water. The organics are separated and dried over magnesium sulfate. The solvent is removed to give 145 milligrams of 2-(4-chloro-2-methoxyphenoxy)-6-fluorobenzonitrile.

reactant | 2,6-difluorobenzonitrile | 0.72 mmol, 100 mg | FC1=C(C#N)C(=CC=C1)F | C7H3F2N
reactant | 4-chloro-2-methoxyphenol | 0.72 mmol, 114 mg | ClC1=CC(=C(C=C1)O)OC | C7H7ClO2
reactant | potassium carbonate | 0.36 mmol, 50 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(4-chloro-2-methoxyphenoxy)-6-fluorobenzonitrile | 145 milligrams | ClC1=CC(=C(OC2=C(C#N)C(=CC=C2)F)C=C1)OC | C14H9ClFNO2
